US08685980B2
Following General Procedure B, 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (0.2 g, 0.529 mmol) and piperidin-4-ol (56 mg, 0.556 mmol) gave 7-cyclopentyl-2-[5-(4-hydroxy-piperidin-1-ylmethyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide is obtained as a white solid (25 mg, 10%) [following purification by preparative LCMS and further purification by SiO2 chromatography, eluting with 0-7% (2N NH3 in MeOH/EtOAc). MS (ESI) m/z 464.3 (M+H)+ (method B).

reactant | 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.529 mmol, 0.2 g | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C=O)N1C1CCCC1)C | C20H22N6O2
reactant | piperidin-4-ol | 0.556 mmol, 56 mg | N1CCC(CC1)O | C5H11NO
product | 7-cyclopentyl-2-[5-(4-hydroxy-piperidin-1-ylmethyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)CN2CCC(CC2)O)N1C1CCCC1)C | C25H33N7O2
